US05079246
(±) 4-Methyl-1,3-cyclohexanedione (D11)
To a stirred solution of lithium diisopropylamide mono (tetrahydrofuran) (100 ml, 150 mM, 1.5M solution) in dry tetrahydrofuran (100 ml) under an atmosphere of nitrogen and at -78° C. was added dropwise 3-ethoxy-2-cyclohexen-1-one (21.0 g, 150 mM) dissolved in tetrahydrofuran (70 ml) over a period of 15 min. After an additional 45 min, methyl iodide (21.29 g, 150 mM) dissolved in dry tetrahydrofuran (10 ml) was added dropwise over a period of 5 min. After a further 15 min the cooling bath was removed and the whole stirred at room temperature for 1 h. Water was then added and the enol ether intermediate recovered into ether, washed (brine), dried (Na2SO4) and evaporated to dryness. The oil thus obtained was dissolved in ethanol (100 ml) and 5N hydrochloric acid (228 ml) added. The whole was stirred at room temperature for 45 min. Water (800 ml) was added, the aqueous phase made basic to pH 8-9 (NaOH) and extracted with ethyl acetate. The aqueous phase was re-acidified (HCl) and the product extracted into ethyl acetate. The organic phase was washed with brine, dried (Na2SO4) and evaporated to give the title compound (D11) (17.6 g) (92%) as an oil. Product could be used directly in the preparation of intermediate D13 without further purification.

reactant | lithium diisopropylamide mono (tetrahydrofuran) | 150 mM, 100 ml | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-ethoxy-2-cyclohexen-1-one | 150 mM, 21.0 g | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | methyl iodide | 150 mM, 21.29 g | CI | CH3I
reactant | hydrochloric acid | 5N, 228 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | Water | 800 ml | O | H2O
product | (±) 4-Methyl-1,3-cyclohexanedione | 17.6 g, 92% | CC1C(CC(CC1)=O)=O | C7H10O2
